US04837349
To a dichloromethane solution (1.0 ml) of palladium (II) acetate (8.0 mg, 0.04 mmol) and triethylamine (15 μl, 0.11 mmol), t-butyldimethylsilane (179 μl, 1.1 mmol) was added and the mixture was stirred for 15 minutes at room temperature. To the resulting black suspension, a dichloromethane solution (1.0 ml) of N-allyloxycarbonylvaline methyl ester (154 mg, 0.72 mmol) was added and the mixture was stirred for an additional 15 hours. After a saturated aqueous solution of ammonium chloride was added to quench the reaction, extraction with ether was conducted and the ether layer was dried over anhydrous magnesium sulfate and filtered. By distilling off the solvent, N-t-butyldimethylsilyloxycarbonylvaline methyl ester was obtained in an amount of 207 mg (yield, 100%). The physical data for this compound were in agreement with those reported in Examples 4 and 9.

reactant | triethylamine | 0.11 mmol, 15 μl | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilane | 1.1 mmol, 179 μl | C(C)(C)(C)[SiH](C)C | C6H16Si
reactant | N-allyloxycarbonylvaline methyl ester | 0.72 mmol, 154 mg | COC([C@@H](NC(=O)OCC=C)C(C)C)=O | C10H17NO4
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | palladium (II) acetate | 0.04 mmol, 8.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | N-t-butyldimethylsilyloxycarbonylvaline methyl ester | COC([C@@H](NC(=O)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C13H27NO4Si
